US04643990
Dibenzyl N-[N-(3-hexadecanoyloxyoctadecanoyl)-L-valyl]-L-glutamate (950 mg) prepared by the method of Example 2 was dissolved in a mixture of ethyl acetate (200 ml) and methanol (50 ml). A suspended mixture of palladium black (800 mg) in water (10 ml) was added thereto. The mixture was subjected to catalytic hydrogenation at 2.5 atmospheric pressure. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was dried up by using high vacuum pump to afford amorphus N-[N-(3-hexadecanoyloxyoctadecanoyl)-L-valyl]-L-glutamic acid (770 mg).

reactant | Dibenzyl N-[N-(3-hexadecanoyloxyoctadecanoyl)-L-valyl]-L-glutamate | 950 mg | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)CCCCCCCCCCCCCCC | C58H94N2O8
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
catalyst | palladium black | 800 mg | [Pd] | Pd
product | N-[N-(3-hexadecanoyloxyoctadecanoyl)-L-valyl]-L-glutamic acid | 770 mg | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)O)C(=O)O)CCCCCCCCCCCCCCC | C44H82N2O8
